US06953792B2
3,5-Bis(trifluoromethyl)phenylmethyl 4-Oxo-1-phenylcyclohexanecarboxylate
Oxalyl chloride (4.8 mL, 55 mmol) was added to a solution of 4-oxo-1-phenylcyclohexanecarboxylic acid (Description 2, 6 g, 27 mmol) and dimethylformamide (1 drop) in toluene (150 mL) and the mixture was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure and toluene was added. The solvent was evaporated under reduced pressure and the residue was dissolved in toluene (100 mL). 3,5-Bis(trifluoromethyl)benzenemethanol (6.25 g, 26 mmol) and 4-dimethylaminopyridine (3.62 g, 30 mmol) were added and the mixture was heated under reflux for 24 hours. The solvent was evaporated under reduced pressure and the residue was partitioned between ethyl acetate (100 mL) and hydrochloric acid (2M, 100 mL). The organic layer was dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/CH2Cl2 (60:40 increasing to 50:50) to give the title compound (4.5 g, 40%). 1H NMR (360 MHz, CDCl3) δ 2.33-2.53 (6H, m), 2.72-2.77 (2H, m), 5.23 (2H, s), 7.28-7.41 (5H, m), 7.51 (2H, s), and 7.77 (1H, s).

reactant | Oxalyl chloride | 55 mmol, 4.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-oxo-1-phenylcyclohexanecarboxylic acid | 27 mmol, 6 g | O=C1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C13H14O3
reactant | 3,5-Bis(trifluoromethyl)benzenemethanol | 26 mmol, 6.25 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CO)(F)F | C9H6F6O
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 30 mmol, 3.62 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3,5-Bis(trifluoromethyl)phenylmethyl 4-Oxo-1-phenylcyclohexanecarboxylate | 4.5 g, 40% | O=C1CCC(CC1)(C(=O)OCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C22H18F6O3
